US07112593B2
c) (3R,4S)-1-(3-Benzylphenyl)-3,4-dihydroxypyrrolidine
While stirring 20 ml of an acetone solution of 2.1 g of 1-(3-benzylphenyl)-2,5-dihydropyrrole on an ice bath, 2.2 ml of a 50% aqueous solution of N-methylmorpholine-N-oxide, 4 ml of water and 0.5 ml of a 2.5% t-butanol solution of osmium tetroxide were successively added thereto, followed by stirring as it was at room temperature overnight. After adding 2 ml of a 1 M aqueous solution of sodium thiosulfate, the reaction mixture was extracted with ethyl acetate-water. The organic layer was washed with water and brine, dried over anhydrous magnesium sulfate and evaporated. The residue was purified by silica gel column chromatography with 10–50% ethyl acetate/hexane, to give 1.15 g of the title compound.

reactant | acetone | 20 ml | CC(=O)C | C3H6O
reactant | 1-(3-benzylphenyl)-2,5-dihydropyrrole | 2.1 g | C(C1=CC=CC=C1)C=1C=C(C=CC1)N1CC=CC1 | C17H17N
reactant | N-methylmorpholine-N-oxide | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
catalyst | osmium tetroxide | [Os](=O)(=O)(=O)=O
solvent | t-butanol | C(C)(C)(C)O | C4H10O
solvent | water | 4 ml | O | H2O
product | (3R,4S)-1-(3-Benzylphenyl)-3,4-dihydroxypyrrolidine | 1.15 g | C(C1=CC=CC=C1)C=1C=C(C=CC1)N1C[C@H]([C@H](C1)O)O | C17H19NO2
